US06673797B1
(2) Preparation of 1-Benzenesulfonyl-2-(oxazol-2-yl)-5-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine
A mixture of 1-benzenesulfonyl-2-(oxazol-2-yl)-5-methylthio-1H-pyrrolo[2,3-b]pyridine (28 mg), magnesium monoperoxyphtalate hexahydrate (116 mg, 80% purity), dichloromethane (1.2 ml) and methanol (0.5 ml) was stirred at 0° C. for 30 minutes. To the reaction mixture was added a saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with dichloromethane, washed with a saturated aqueous NaCl solution, dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (hexane ethyl acetate=1:3) to obtain 14 mg of the desired product.

reactant | 1-benzenesulfonyl-2-(oxazol-2-yl)-5-methylthio-1H-pyrrolo[2,3-b]pyridine | 28 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)SC)C=2OC=CN2 | C17H13N3O3S2
reactant | magnesium monoperoxyphtalate hexahydrate | 116 mg | O.O.O.O.O.O.C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-].[Mg+2]
reactant | dichloromethane | 1.2 ml | ClCCl | CH2Cl2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 0.5 ml | CO | CH4O
product | 1-Benzenesulfonyl-2-(oxazol-2-yl)-5-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine | 14 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)S(=O)(=O)C)C=2OC=CN2 | C17H13N3O5S2
